US09120749B2
tert-Butyl 4-{2-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]ethyl}piperazine-1-carboxylate
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (940 mg, 3.03 mmol) was reacted with tert-butyl 4-(2-aminoethyl)piperazine-1-carboxylate (830 mg, 86%) to afford the desired product as an orange solid: 1H NMR (300 MHz, CDCl3) δ 10.69 (s, 1H), 9.21 (s, 1H), 8.39 (d, J=2.0 Hz, 1H), 7.81 (d, J=8.9 Hz, 1H), 7.73 (dd, J=8.9, 2.0 Hz, 1H), 3.87 (dd, J=11.1, 5.5 Hz, 2H), 3.49 (t, J=4.9 Hz, 4H), 2.76-2.59 (m, 3H), 2.50 (t, J=4.9 Hz, 4H), 1.47 (s, J=11.3 Hz, 9H), 1.32-1.16 (m, 2H), 1.10-0.95 (m, 2H).

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 3.03 mmol, 940 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 4-(2-aminoethyl)piperazine-1-carboxylate | 830 mg | NCCN1CCN(CC1)C(=O)OC(C)(C)C | C11H23N3O2
product | tert-Butyl 4-{2-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino]ethyl}piperazine-1-carboxylate | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NCCN1CCN(CC1)C(=O)OC(C)(C)C | C24H31BrN4O3
